US04032652
Similarly, 1.8 g. (0.025 m.) of n-butylamine and 5.3 g. (0.025 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one are refluxed overnight in 50 ml. of benzene and the resulting solid filtered to give 5-acetyl-3-[1-(n-butylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 112°-114° C.

reactant | n-butylamine | C(CCC)N | C4H11N
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
product | 5-acetyl-3-[1-(n-butylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NCCCC)O | C13H17NO5
